US04337081
5-(N-Methyl-Trichloroacetamido)-3-Trichloromethyl-1,2,4-Thiadiazole
A solution of 5.8 grams (0.02 mole) 5-methylamino-3-trichloromethyl-1,2,4-thiadiazole and 9.0 grams (0.05 mole) trichloroacetyl chloride in 200 milliliters toluene was refluxed at about 110° C. for 20 hours. Upon cooling to -10° C., 2.7 grams pure product precipitated; m.p. 223° C. An additional 6.0 grams product was isolated by removal of the low boiling materials in vacuo. Total yield was 92%.

reactant | 5-methylamino-3-trichloromethyl-1,2,4-thiadiazole | 0.02 mole, 5.8 grams | CNC1=NC(=NS1)C(Cl)(Cl)Cl | C4H4Cl3N3S
reactant | trichloroacetyl chloride | 0.05 mole, 9.0 grams | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | toluene | 200 milliliters | C1(=CC=CC=C1)C | C7H8
product | 5-(N-Methyl-Trichloroacetamido)-3-Trichloromethyl-1,2,4-Thiadiazole | 6.0 grams, yield was 92% | CN(C(C(Cl)(Cl)Cl)=O)C1=NC(=NS1)C(Cl)(Cl)Cl | C6H3Cl6N3OS
